* CL05A225KP5NSN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 2.2uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.07mm
*     Width = 0.50+/-0.07mm
*     Thickness = 0.50+/-0.07mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 3.6V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A225KP5NSN_Precise_DC3.6V_25degC 1 2
C1 1 3 8.45443E-7
C2 3 4 3.60923E-5
C3 4 5 3.51048E-5
C4 5 6 3.72159E-5
C5 6 7 4.00758E-5
C6 7 8 3.16775E-5
C7 8 9 1.14732E-5
C8 9 10 1.0E-10
C16 17 18 4.11786E-4
C17 18 19 5.54257E-5
C18 19 20 2.22605E-5
C19 20 21 2.59056E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 3.91607E-5
C23 24 25 8.48967E-6
C24 25 26 7.59389E-7
C25 26 27 2.53303E-4
C26 27 28 1.79695E-11
C27 28 2 2.53303E-4
L10 11 12 8.05280E-11
L11 12 13 1.46440E-10
L12 13 14 4.07806E-11
L13 14 15 2.73594E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 1.43163E-11
L17 18 19 2.94214E-11
L18 19 20 2.71588E-11
L19 20 21 1.58617E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.00885
L23 24 25 1.09464E-11
L24 25 26 6.93927E-11
L25 26 27 1.0E-10
L26 27 28 2.17858E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 177.66142
R3 4 5 26.71290
R4 5 6 0.56928
R5 6 7 0.08271
R6 7 8 0.01455
R7 8 9 0.00393
R8 9 10 1.0E-6
R9 10 11 0.00365
R11 12 13 0.03666
R12 13 14 0.13084
R13 14 15 0.32848
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00287
R17 18 19 0.00801
R18 19 20 0.00128
R19 20 21 4.38088E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 3.26145
R23 24 25 0.00284
R24 25 26 0.00924
R25 26 27 1.0E-6
R26 27 28 2.36240
R27 28 2 1.0E-6
.ENDS CL05A225KP5NSN_Precise_DC3.6V_25degC